data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[Cl-:5].[cH:1]1[cH:2][cH:11][cH:4][c:6]2[c:3]1[N+:15]([CH3:8])=[CH:10][C:9]2=[CH:7][c:14]1[cH:12][cH:16][cH:18][cH:17][cH:13]1>>[cH:1]1[cH:2][cH:11][cH:4][c:6]2[c:3]1[n:15]([CH3:8])[cH:10][c:9]2[CH:7]([Cl:5])[c:14]1[cH:12][cH:16][cH:18][cH:17][cH:13]1", "epd": [["LP-/Sigma+", [5], [5, 7]], ["Pi-/Pi+", [7, 9], [9, 10]], ["Pi-/LP+", [10, 15], [15]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:7]1[N+:14](=[CH:3][CH:31]=[CH:8][c:23]2[cH:4][cH:15][cH:2][cH:16][cH:5]2)[CH:13]([CH2:32][c:28]2[cH:34][cH:11][cH:17][cH:12][cH:35]2)[C:20](=[O:6])[N:30]1[CH3:19])([CH3:25])([CH3:26])[CH3:27].[O-:9][N+:33]([O-:10])=[C:24]1[CH:22]=[CH:37][CH:21]=[CH:29][C:36]1=[O:18]>>[C:1]([CH:7]1[N:14]([CH:3]=[CH:31][CH:8]([O:18][c:36]2[c:24]([N+:33](=[O:9])[O-:10])[cH:22][cH:37][cH:21][cH:29]2)[c:23]2[cH:4][cH:15][cH:2][cH:16][cH:5]2)[CH:13]([CH2:32][c:28]2[cH:34][cH:11][cH:17][cH:12][cH:35]2)[C:20](=[O:6])[N:30]1[CH3:19])([CH3:25])([CH3:26])[CH3:27]", "epd": [["LP-/Pi+", [9], [33, 9]], ["Pi-/Pi+", [24, 33], [36, 24]], ["Pi-/Sigma+", [18, 36], [18, 8]], ["Pi-/Pi+", [8, 31], [31, 3]], ["Pi-/LP+", [3, 14], [14]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[c:19]([CH3:3])[cH:2][cH:21][cH:8][cH:20]1.[cH:4]1[c:9]([CH+:24][c:10]2[cH:5][c:13]([F:17])[cH:23][c:14]([F:18])[cH:6]2)[cH:7][c:11]([F:15])[cH:22][c:12]1[F:16]>>[CH:1]1=[CH:20][CH:8]([CH:24]([c:9]2[cH:4][c:12]([F:16])[cH:22][c:11]([F:15])[cH:7]2)[c:10]2[cH:5][c:13]([F:17])[cH:23][c:14]([F:18])[cH:6]2)[CH:21]=[CH:2][C+:19]1[CH3:3]", "epd": [["Pi-/Pi+", [1, 19], [20, 1]], ["Pi-/Sigma+", [8, 20], [8, 24]]]}
{"reaction_name": "Oxocarbenium alkene addition", "rsmi": "[CH2:6]=[CH2:7].[O:1]1[CH2:2][CH2:3][CH2:8][CH2:4][CH+:5]1>>[O:1]1[CH2:2][CH2:3][CH2:8][CH2:4][CH:5]1[CH2:6][CH2+:7]", "epd": [["Pi-/Sigma+", [6, 7], [5, 6]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:23][CH3:22])[c:26]1[cH:12][cH:10][cH:6][cH:11][cH:13]1.[cH:1]1[cH:20][cH:7][c:9]([C-:5]([C:16]([O:3][CH2:14][CH3:18])=[O:25])[C:17]([O:4][CH2:15][CH3:19])=[O:24])[cH:8][cH:21]1>>[cH:1]1[cH:20][cH:7][c:9]([C:5]([CH:2]([O:23][CH3:22])[c:26]2[cH:12][cH:10][cH:6][cH:11][cH:13]2)([C:16]([O:3][CH2:14][CH3:18])=[O:25])[C:17]([O:4][CH2:15][CH3:19])=[O:24])[cH:8][cH:21]1", "epd": [["LP-/Sigma+", [5], [5, 2]], ["Pi-/LP+", [2, 23], [23]]]}
{"reaction_name": "Crossed aldol addition", "rsmi": "[CH2-:1][C:12]([CH3:2])=[O:6].[O:3]=[CH:5][c:4]1[cH:10][cH:8][cH:7][cH:9][cH:11]1>>[CH2:1]([CH:5]([O-:3])[c:4]1[cH:10][cH:8][cH:7][cH:9][cH:11]1)[C:12]([CH3:2])=[O:6]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Pi-/LP+", [3, 5], [3]]]}
{"reaction_name": "Carbonyldiimidazole activation", "rsmi": "[CH3:8][CH2:15][O:9][H:11].[O:1]=[C:14]([n:10]1[cH:4][cH:2][n:13][cH:6]1)[CH:12]1[N:3]=[CH:7][N:16]=[CH:5]1>>[O:1]=[C:14]([n:3]1[cH:7][n:16][cH:5][cH:12]1)[O:9][CH2:15][CH3:8].[cH:2]1[cH:4][n:10]([H:11])[cH:6][n:13]1", "epd": [["LP-/Pi+", [16], [7, 16]], ["Pi-/LP+", [3, 7], [3]], ["LP-/Sigma+", [3], [3, 14]], ["Pi-/LP+", [1, 14], [1]], ["LP-/Pi+", [1], [1, 14]], ["Sigma-/LP+", [10, 14], [10]], ["LP-/Sigma+", [10], [10, 11]], ["Sigma-/LP+", [9, 11], [9]], ["LP-/Sigma+", [9], [9, 14]], ["Pi-/LP+", [1, 14], [1]], ["LP-/Pi+", [1], [1, 14]], ["Sigma-/LP+", [12, 14], [12]], ["LP-/Pi+", [12], [5, 12]], ["Pi-/LP+", [5, 16], [16]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:3](=[O:18])([O:26][CH2:5][c:16]1[cH:20][cH:7][cH:12][cH:10][cH:23]1)[N:32]=[N:31][C:4](=[O:19])[O:27][CH2:6][c:17]1[cH:21][cH:8][cH:13][cH:9][cH:22]1.[cH:1]1[c:35]([CH:24]=[C:28]2[S:14][c:33]3[cH:29][cH:15][cH:25][cH:11][c:30]3[N:39]2[CH3:34])[cH:2][cH:37][cH:38][cH:36]1>>[cH:1]1[c:35]([CH:24]([c:28]2[s:14][c:33]3[cH:29][cH:15][cH:25][cH:11][c:30]3[n+:39]2[CH3:34])[N:31]([C:4](=[O:19])[O:27][CH2:6][c:17]2[cH:21][cH:8][cH:13][cH:9][cH:22]2)[N:32]=[C:3]([O-:18])[O:26][CH2:5][c:16]2[cH:20][cH:7][cH:12][cH:10][cH:23]2)[cH:2][cH:37][cH:38][cH:36]1", "epd": [["LP-/Pi+", [39], [28, 39]], ["Pi-/Sigma+", [24, 28], [24, 31]], ["Pi-/Pi+", [31, 32], [32, 3]], ["Pi-/LP+", [3, 18], [18]]]}
